US07470699B2
Preparation of 4-[5-Amino-6-(2-fluoro-4-methanesulfonyl-phenylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (Compound A120)
Mixture of 4-[6-(2-fluoro-4-methanesulfonyl-phenylamino)-5-nitro-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (197 mg, 0.3 mmole), Zn Dust (2.4 mmole, 8 eq) and 1 mL of Sat NH2Cl solution in 2 mL THF and 2 mL H2O was stirred at room temperature for 25 minutes. Zn Dust was filtered off by celite and washed with ethyl acetate. Crude was purified by column chromatography (Hexane/Ethyl Acetate=½, Rf=0.44) to give compound A120 as a yellow oil (100 mg, 71%). 1H NMR (DMSO-d6, 400 MHz) δ 1.19 (d, 6H), 1.62-1.68 (m, 2H), 1.88-1.93 (m, 2H), 3.23 (s, 3H), 3.33-3.39 (m, 2H), 3.64-3.70 (m, 2H), 4.77 (sep, 1H), 5.28-5.29 (m, 1H), 7.68 (d, 1H), 7.77 (d, 1H), 7.88 (s, 1H), 8.06 (t, 1H), 8.41 (sb, NH). Exact mass calculated for C20H26FN5O5S 467.2, found 468.5 (MH+).

reactant | 4-[6-(2-fluoro-4-methanesulfonyl-phenylamino)-5-nitro-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 0.3 mmole, 197 mg | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1[N+](=O)[O-])NC1=C(C=C(C=C1)S(=O)(=O)C)F | C20H24FN5O7S
reactant | NH2Cl | NCl | ClH2N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | H2O | 2 mL | O | H2O
catalyst | Zn | 2.4 mmole, 8 eq | [Zn] | Zn
product | 4-[5-Amino-6-(2-fluoro-4-methanesulfonyl-phenylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 100 mg, 71% | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1N)NC1=C(C=C(C=C1)S(=O)(=O)C)F | C20H26FN5O5S
